US07652015B2
Add DIEA (2 equiv.) to a solution of [4-(5-amino-3-methyl-pyridin-2-yl)-piperazin-1-yl]-(2,6-difluoro-phenyl)-methanone (400 mg, 1.205 mmol) and [5-(2-fluoro-1,1-dimethyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester (1 equiv) in acetonitrile (12 mL). Stir the mixture at 80° C. in a sealed tube. After 4 days, remove solvent. Dilute crude with DCM, extract with water, and dry over Na2SO4. Filter and remove solvent under reduced pressure. Subject solid to silica gel chromatography, eluting with hexane/acetone 3:1 to obtain 352 mg of 1-{6-[4-(2,6-difluoro-benzoyl)-piperazin-1-yl]-5-methyl-pyridin-3-yl}-3-[5-(2-fluoro-1,1-dimethyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea as a white solid (48% yield). ES+(m/z): 606 [M+1]

reactant | DIEA | 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | [4-(5-amino-3-methyl-pyridin-2-yl)-piperazin-1-yl]-(2,6-difluoro-phenyl)-methanone | 1.205 mmol, 400 mg | NC=1C=C(C(=NC1)N1CCN(CC1)C(=O)C1=C(C=CC=C1F)F)C | C17H18F2N4O
reactant | [5-(2-fluoro-1,1-dimethyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-carbamic acid 2,2,2-trichloro-ethyl ester | 1 equiv | ClC(COC(NC=1N(N=C(C1)C(CF)(C)C)C1=CC=C(C=C1)C)=O)(Cl)Cl | C17H19Cl3FN3O2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 1-{6-[4-(2,6-difluoro-benzoyl)-piperazin-1-yl]-5-methyl-pyridin-3-yl}-3-[5-(2-fluoro-1,1-dimethyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | 352 mg, 48% yield | FC1=C(C(=O)N2CCN(CC2)C2=C(C=C(C=N2)NC(=O)NC=2N(N=C(C2)C(CF)(C)C)C2=CC=C(C=C2)C)C)C(=CC=C1)F | C32H34F3N7O2
